US05246948
Synthesis of 4-(4-phthalimidobutyloxy)pyridine hydrochloride
To a suspension of 1.48 g (5.0 mmol) of 4-(4-phthalimidobutyloxy)pyridine in 20 ml of methanol, 15 ml of hydrogen chloride-methanol was added and dissolve. The solvent was distilled off and the residue was crystallized from acetone-ether. The resulting crystals were collected by filtration and washed with ether to give 1.51 g of the desired compound (86.3% yield, colorless crystals), mp. 154°-156° C.

reactant | 4-(4-phthalimidobutyloxy)pyridine | 5.0 mmol, 1.48 g | C1(C=2C(C(N1CCCCOC1=CC=NC=C1)=O)=CC=CC2)=O | C17H16N2O3
reactant | hydrogen chloride methanol | 15 ml | Cl.CO
solvent | methanol | 20 ml | CO | CH4O
product | 4-(4-phthalimidobutyloxy)pyridine hydrochloride | 1.51 g, 86.3% yield | Cl.C1(C=2C(C(N1CCCCOC1=CC=NC=C1)=O)=CC=CC2)=O | InChI=1S/C17H16N2O3.ClH/c20-16-14-5-1-2-6-15(14)17(21)19(16)11-3-4-12-22-13-7-9-18-10-8-13;/h1-2,5-10H,3-4,11-12H2;1H
